### PR TITLE
refactor(CategoryTheory/Monoidal): add whiskering operators

### PR DESCRIPTION
**Pull request by yuma-mizuno**
We introduce whiskering operators. This allows us to introduce a simp-normal form for morphisms in monoidal categories. Rewriting into simp-normal forms is especially useful when combined with the coherence tactic.

---

- [x] depends on: #6420 
- [x] depends on: #8191
- [x] depends on: #9988 
- [x] depends on: #9991 
- [x] depends on: #9995
- [x] depends on: #10061 
- [x] depends on: #10078
- [x] depends on: #10898
- [x] depends on: #10912
- [x] depends on: #11223 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Monoidal/Bimod.lean [hunk 1]
```diff
@@ -289,62 +289,58 @@ noncomputable def actRight : X P Q ⊗ T.X ⟶ X P Q :=
...
           dsimp
-          slice_lhs 1 1 => rw [comp_tensor_id]
-          slice_lhs 2 3 => rw [associator_naturality]
-          slice_lhs 3 4 => rw [← id_tensor_comp, middle_assoc, id_tensor_comp]
-          slice_rhs 4 6 => rw [Iso.inv_hom_id_assoc]
-          slice_rhs 3 4 => rw [← id_tensor_comp]
-          coherence))
+          simp only [comp_whiskerRight, whisker_assoc, Category.assoc, Iso.inv_hom_id_assoc]
+          slice_lhs 3 4 =>
+            rw [← MonoidalCategory.whiskerLeft_comp, middle_assoc, MonoidalCategory.whiskerLeft_comp]
```
Comment (semorrison) [inline Mathlib/CategoryTheory/Monoidal/Bimod.lean:303]:
```suggestion
            rw [← MonoidalCategory.whiskerLeft_comp, middle_assoc, 
              MonoidalCategory.whiskerLeft_comp]
```
Long line.

File: Mathlib/CategoryTheory/Monoidal/Category.lean [hunk 2]
```diff
@@ -73,90 +89,117 @@ See <https://stacks.math.columbia.edu/tag/0FFK>.
...
+    ∀ {X X' : C} (f : X ⟶ X') (Y Z : C),
+      whiskerRight f (tensorObj Y Z) =
+        (associator X Y Z).inv ≫ whiskerRight (whiskerRight f Y) Z ≫ (associator X' Y Z).hom := by
+    aesop_cat
+  whisker_assoc :
+    ∀ (X : C) {Y Y' : C} (f : Y ⟶ Y') (Z : C),
+      whiskerRight (whiskerLeft X f) Z =
+        (associator X Y Z).hom ≫ whiskerLeft X (whiskerRight f Z) ≫ (associator X Y' Z).inv := by
+    aesop_cat
+  /-- The exchnage identity for the left and right whiskerings -/
```
Comment (semorrison) [inline Mathlib/CategoryTheory/Monoidal/Category.lean:148]:
```suggestion
  /-- The exchange identity for the left and right whiskerings -/
```

File: Mathlib/CategoryTheory/Monoidal/Category.lean [hunk 3]
```diff
@@ -170,12 +213,111 @@ scoped notation "λ_" => leftUnitor
...
+theorem inv_hom_whiskerLeft' (X : C) {Y Z : C} (f : Y ⟶ Z) [IsIso f] :
+    X ◁ inv f ≫ X ◁ f = 𝟙 (X ⊗ Z) := by
+  rw [← whiskerLeft_comp, IsIso.inv_hom_id, whiskerLeft_id]
+
+@[reassoc (attr := simp)]
+theorem inv_hom_whiskerRight' {X Y : C} (f : X ⟶ Y) [IsIso f] (Z : C) :
+    inv f ▷ Z ≫ f ▷ Z = 𝟙 (Y ⊗ Z) := by
+  rw [← comp_whiskerRight, IsIso.inv_hom_id, id_whiskerRight]
+
+/-- The left whiskering of a 2-isomorphism is a 2-isomorphism. -/
```
Comment (semorrison) [inline Mathlib/CategoryTheory/Monoidal/Category.lean:292]:
```suggestion
/-- The left whiskering of an isomorphism is an isomorphism. -/
```

File: Mathlib/CategoryTheory/Monoidal/Category.lean [hunk 4]
```diff
@@ -170,12 +213,111 @@ scoped notation "λ_" => leftUnitor
...
+
+instance whiskerLeft_isIso (X : C) {Y Z : C} (f : Y ⟶ Z) [IsIso f] : IsIso (X ◁ f) :=
+  IsIso.of_iso (whiskerLeftIso X (asIso f))
+
+@[simp]
+theorem inv_whiskerLeft (X : C) {Y Z : C} (f : Y ⟶ Z) [IsIso f] :
+    inv (X ◁ f) = X ◁ inv f := by
+  aesop_cat
+
+/-- The right whiskering of a 2-isomorphism is a 2-isomorphism. -/
```
Comment (semorrison) [inline Mathlib/CategoryTheory/Monoidal/Category.lean:306]:
```suggestion
/-- The right whiskering of an isomorphism is an isomorphism. -/
```

File: Mathlib/CategoryTheory/Monoidal/Braided.lean [hunk 5]
```diff
@@ -387,30 +449,36 @@ end CommMonoid
...
+--       f₁ ▷ X₂ ▷ Z₁ ▷ Z₂ ⊗≫ Y₁ ◁ (f₂ ▷ Z₁ ≫ (β_ Y₂ Z₁).hom) ▷ Z₂ ⊗≫ 𝟙 _ := ?eq1
+--     _ = 𝟙 _ ⊗≫
+--       (f₁ ▷ (X₂ ⊗ Z₁) ≫ Y₁ ◁ (β_ X₂ Z₁).hom) ▷ Z₂ ⊗≫ Y₁ ◁ Z₁ ◁ f₂ ▷ Z₂ ⊗≫ 𝟙 _ := ?eq2
+--     _ = 𝟙 _ ⊗≫
+--       X₁ ◁ (β_ X₂ Z₁).hom ▷ Z₂ ⊗≫ (f₁ ▷ Z₁ ▷ (X₂ ⊗ Z₂) ≫ (Y₁ ⊗ Z₁) ◁ f₂ ▷ Z₂) ⊗≫ 𝟙 _ := ?eq3
+--     _ = _ := ?eq4
+--   case eq1 => rw [tensorHom_def']; coherence
+--   case eq2 => rw [braiding_naturality_left]; coherence
+--   case eq3 => rw [← whisker_exchange]; coherence
+--   case eq4 => rw [tensorHom_def']; coherence
```
Comment (semorrison) [inline Mathlib/CategoryTheory/Monoidal/Braided.lean:474]: Does this need to be deleted?

File: Mathlib/CategoryTheory/Monoidal/Braided.lean [hunk 6]
```diff
@@ -422,286 +490,124 @@ theorem tensor_μ_natural {X₁ X₂ Y₁ Y₂ U₁ U₂ V₁ V₂ : C} (f₁ :
...
+  simp only [whiskerRight_tensor, comp_whiskerRight, whisker_assoc, assoc, Iso.inv_hom_id_assoc,
+    tensor_whiskerLeft, braiding_tensor_left, MonoidalCategory.whiskerLeft_comp,
+    braiding_tensor_right]
+  calc
+    _ = 𝟙 _ ⊗≫
+      X₁ ◁ ((β_ X₂ Y₁).hom ▷ (Y₂ ⊗ Z₁) ≫ (Y₁ ⊗ X₂) ◁ (β_ Y₂ Z₁).hom) ▷ Z₂ ⊗≫
+        X₁ ◁ Y₁ ◁ (β_ X₂ Z₁).hom ▷ Y₂ ▷ Z₂ ⊗≫ 𝟙 _ := ?eq1
+    _ = _ := ?eq2
+  case eq1 => coherence
+  case eq2 => rw [← whisker_exchange]; coherence
```
Comment (semorrison) [inline Mathlib/CategoryTheory/Monoidal/Braided.lean:554]: My preference is not to use this `?eqn` style, but to write the proofs inline in the `calc` block, at least when the proofs are as short as these ones.

I'm happy to use this technique for multiline proofs needed in a calc block, however.

File: Mathlib/CategoryTheory/Monoidal/Category.lean [hunk 7]
```diff
@@ -21,25 +21,41 @@ The tensor product can be expressed as a functor via `tensor : C × C ⥤ C`.
...
-Dealing with unitors and associators is painful, and at this stage we do not have a useful
-implementation of coherence for monoidal categories.
+## Implementation notes
 
-In an effort to lessen the pain, we put some effort into choosing the right `simp` lemmas.
-Generally, the rule is that the component index of a natural transformation "weighs more"
-in considering the complexity of an expression than does a structural isomorphism (associator, etc).
+In the definition of monoidal categories, we also provide the whiskering operators `whiskerLeft`
+and `whiskerRight`. These are products of an object and a morphism (the terminology "whiskering"
+is borrowed from the 2-category theory). The tensor product of morphisms `tensorHom` can be defined
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Monoidal/Category.lean:31]:
```suggestion
is borrowed from 2-category theory). The tensor product of morphisms `tensorHom` can be defined
```

File: Mathlib/CategoryTheory/Monoidal/Category.lean [hunk 8]
```diff
@@ -21,25 +21,41 @@ The tensor product can be expressed as a functor via `tensor : C × C ⥤ C`.
...
+If you want to provide `tensorHom` and define `whiskerLeft` and `whiskerRight` in terms of it,
+you can use the alternative constructor `CategoryTheory.MonoidalCategory.ofTensorHom`.
 
-This is far from completely effective, but seems to prove a useful principle.
+The whiskerings are useful when considering simp-normal forms of morphisms in monoidal categories.
+
+### Simp-normal form for morphisms
+
+Rewriting involving associators and unitors could be very complicated. We try to ease this
+complexity by putting carefully chosen simp lemmas that rewrite any morphisms into simp-normal
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Monoidal/Category.lean:45]:
```suggestion
complexity by putting carefully chosen simp lemmas that rewrite any morphisms into the simp-normal
```

File: Mathlib/CategoryTheory/Monoidal/Category.lean [hunk 9]
```diff
@@ -21,25 +21,41 @@ The tensor product can be expressed as a functor via `tensor : C × C ⥤ C`.
...
-## Implementation
-Dealing with unitors and associators is painful, and at this stage we do not have a useful
-implementation of coherence for monoidal categories.
+## Implementation notes
 
-In an effort to lessen the pain, we put some effort into choosing the right `simp` lemmas.
-Generally, the rule is that the component index of a natural transformation "weighs more"
-in considering the complexity of an expression than does a structural isomorphism (associator, etc).
+In the definition of monoidal categories, we also provide the whiskering operators `whiskerLeft`
+and `whiskerRight`. These are products of an object and a morphism (the terminology "whiskering"
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Monoidal/Category.lean:30]: Please mention the notation for these operators.

File: Mathlib/CategoryTheory/Monoidal/Category.lean [hunk 10]
```diff
@@ -73,90 +89,117 @@ See <https://stacks.math.columbia.edu/tag/0FFK>.
...
+abbrev tensorUnit (C : Type u) [Category.{v} C] [MonoidalCategory C] : C :=
   tensorUnit' (C := C)
 
-namespace MonoidalCategory
-
 /-- Notation for `tensorObj`, the tensor product of objects in a monoidal category -/
-scoped infixr:70 " ⊗ " => tensorObj
+scoped infixr:70 " ⊗ " => MonoidalCategory.tensorObj
+
+/-- Notation for the `whiskerLeft` -/
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Monoidal/Category.lean:195]:
```suggestion
/-- Notation for the `whiskerLeft` operator of monoidal categories -/
```

File: Mathlib/CategoryTheory/Monoidal/Category.lean [hunk 11]
```diff
@@ -73,90 +89,117 @@ See <https://stacks.math.columbia.edu/tag/0FFK>.
...
+scoped infixr:81 " ◁ " => whiskerLeft
+
+/-- Notation for the `whiskerRight` -/
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Monoidal/Category.lean:198]:
```suggestion
/-- Notation for the `whiskerRight` operator of monoidal categories -/
```

File: Mathlib/CategoryTheory/Monoidal/Category.lean [hunk 12]
```diff
@@ -170,12 +213,111 @@ scoped notation "λ_" => leftUnitor
...
 
+variable {C : Type u} [𝒞 : Category.{v} C] [MonoidalCategory C]
+
+@[reassoc]
+theorem tensorHom_def' {X₁ Y₁ X₂ Y₂ : C} (f : X₁ ⟶ Y₁) (g: X₂ ⟶ Y₂) :
+    f ⊗ g = X₁ ◁ g ≫ f ▷ Y₂ :=
+  whisker_exchange f g ▸ tensorHom_def f g
+
+/-- Tensor product of identity maps is the identity: `(𝟙 X₁ ⊗ 𝟙 X₂) = 𝟙 (X₁ ⊗ X₂)` -/
+theorem tensor_id (X₁ X₂ : C) : tensorHom (𝟙 X₁) (𝟙 X₂) = 𝟙 (tensorObj X₁ X₂) := by
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Monoidal/Category.lean:224]: Is there a reason that you do not use notation for the tensor product?

File: Mathlib/CategoryTheory/Monoidal/Category.lean [hunk 13]
```diff
@@ -333,86 +602,271 @@ theorem associator_inv_conjugation {X X' Y Y' Z Z' : C} (f : X ⟶ X') (g : Y 
...
 @[reassoc (attr := simp)]
 theorem tensor_inv_hom_id' {V W X Y Z : C} (f : V ⟶ W) [IsIso f] (g : X ⟶ Y) (h : Y ⟶ Z) :
-    (g ⊗ inv f) ≫ (h ⊗ f) = (g ⊗ 𝟙 W) ≫ (h ⊗ 𝟙 W) := by
-  rw [← tensor_comp, IsIso.inv_hom_id, comp_tensor_id]
+    (g ⊗ inv f) ≫ (h ⊗ f) = (g ▷ W) ≫ (h ▷ W) := by
+  rw [← tensor_comp, IsIso.inv_hom_id, tensorHom_id, comp_whiskerRight]
 #align category_theory.monoidal_category.tensor_inv_hom_id' CategoryTheory.MonoidalCategory.tensor_inv_hom_id'
 
+/--
+A constructor for monoidal categaories that requires `tensorHom` instead of `whiskerLeft` and
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Monoidal/Category.lean:655]:
```suggestion
A constructor for monoidal categories that requires `tensorHom` instead of `whiskerLeft` and
```

File: Mathlib/CategoryTheory/Monoidal/Category.lean (hunk 12 above)
Comment (yuma-mizuno) [reply Mathlib/CategoryTheory/Monoidal/Category.lean]: No, I fixed it.

**Comment by eric-wieser** [comment]
I tried to resolve the conflicts.

File: Mathlib/Tactic/CategoryTheory/Coherence.lean [hunk 14]
```diff
@@ -183,7 +196,7 @@ noncomputable def monoidalIsoComp {W X Y Z : C} [LiftObj X] [LiftObj Y]
   f ≪≫ asIso MonoidalCoherence.hom ≪≫ g
 
 @[inherit_doc Mathlib.Tactic.Coherence.monoidalIsoComp]
-scoped[CategoryTheory.MonoidalCategory] infixr:80 " ≪⊗≫ " =>
+scoped[CategoryTheory.MonoidalCategory] infixr:79 " ≪⊗≫ " =>
   Mathlib.Tactic.Coherence.monoidalIsoComp -- type as \ll \ot \gg
```
Comment (eric-wieser) [inline Mathlib/Tactic/CategoryTheory/Coherence.lean:200]: Can you make a separate PR with these precedence changes, so that it's clear what the fallout is?

Comment (yuma-mizuno) [reply Mathlib/Tactic/CategoryTheory/Coherence.lean]: I canceled the change of precedence. Setting `79`, which is lower than `80` for the usual composition `≫`, only affects one pair of parenthesis in https://github.com/leanprover-community/mathlib4/pull/6307/commits/c1bce84c5ba2714d3215f03485a3f410211fef0a. Now I don't think we really need to set a lower precedence here.

File: Mathlib/CategoryTheory/Monoidal/Functorial.lean [hunk 15]
```diff
@@ -57,10 +59,12 @@ class LaxMonoidalStruct (F : C → D) [Functorial.{v₁, v₂} F] where
 -- but that isn't the immediate plan.
 /-- An unbundled description of lax monoidal functors. -/
 class LaxMonoidal (F : C → D) [Functorial.{v₁, v₂} F] extends LaxMonoidalStruct F where
+  /-- naturality of the tensorator -/
```
Comment (eric-wieser) [inline Mathlib/CategoryTheory/Monoidal/Functorial.lean:62]: https://github.com/leanprover/std4/pull/269 will make it so you don't have to add all these

**Comment by eric-wieser** [comment]
This has picked up some conflicts with #7279, probably among many other PRs.

File: Mathlib/Algebra/Category/ModuleCat/Monoidal/Basic.lean [hunk 16]
```diff
@@ -229,6 +229,18 @@ theorem hom_apply {K L M N : ModuleCat.{u} R} (f : K ⟶ L) (g : M ⟶ N) (k : K
...
+    (l : L) (m : M) :
+      (L ◁ f) (l ⊗ₜ m) = l ⊗ₜ f m :=
+  rfl
+
+@[simp]
+theorem whiskerRight_apply {L M : ModuleCat.{u} R} (f : L ⟶ M) (N : ModuleCat.{u} R)
+    (l : L) (n : N) :
+      (f ▷ N) (l ⊗ₜ n) = f l ⊗ₜ n :=
+  rfl
+
```
Comment (eric-wieser) [inline Mathlib/Algebra/Category/ModuleCat/Monoidal/Basic.lean:243]: Maybe there aren't very many of them, but lemmas like these might be worth extracting to a standalone PR so that they're not held hostage by the merge conflicts.

File: Mathlib/CategoryTheory/Monoidal/End.lean [hunk 17]
```diff
@@ -61,6 +61,14 @@ attribute [local instance] endofunctorMonoidalCategory
...
     (α ⊗ β).app X = β.app (F.obj X) ≫ K.map (α.app X) := rfl
 
+@[simp] theorem endofunctorMonoidalCategory_whiskerLeft_app
+    {F G H : C ⥤ C} {α : F ⟶ G} (X : C) :
+    (H ◁ α).app X = α.app (H.obj X) := rfl
+
+@[simp] theorem endofunctorMonoidalCategory_whiskerRight_app
+    {F G H : C ⥤ C} {α : F ⟶ G} (X : C) :
+    (α ▷ H).app X = H.map (α.app X) := rfl
+
```
Comment (eric-wieser) [inline Mathlib/CategoryTheory/Monoidal/End.lean:71]: These now exist!

https://github.com/leanprover-community/mathlib4/blob/34d930ad7d64baf78421cee4c6a07f2357bcf6df/Mathlib/CategoryTheory/Monoidal/End.lean#L64-L70

File: Mathlib/CategoryTheory/Monoidal/FunctorCategory.lean [hunk 18]
```diff
@@ -120,6 +121,16 @@ theorem tensorHom_app {F G F' G' : C ⥤ D} {α : F ⟶ G} {β : F' ⟶ G'} {X}
...
+@[simp]
+theorem whiskerLeft_app (F : C ⥤ D) {G H : C ⥤ D} (α : G ⟶ H) (X : C) :
+    (F ◁ α).app X = F.obj X ◁ α.app X :=
+  rfl
+
+@[simp]
+theorem whiskerRight_app {G H : C ⥤ D} (α : G ⟶ H) (F : C ⥤ D) (X : C) :
+    (α ▷ F).app X = α.app X ▷ F.obj X  :=
+  rfl
+
```
Comment (eric-wieser) [inline Mathlib/CategoryTheory/Monoidal/FunctorCategory.lean:133]: As do these:

https://github.com/leanprover-community/mathlib4/blob/34d930ad7d64baf78421cee4c6a07f2357bcf6df/Mathlib/CategoryTheory/Monoidal/FunctorCategory.lean#L120-L128

File: Mathlib/Algebra/Category/ModuleCat/Monoidal/Basic.lean (hunk 16 above)
Comment (yuma-mizuno) [reply Mathlib/Algebra/Category/ModuleCat/Monoidal/Basic.lean:244]: I made a standalone PR for such lemmas: #8191.

File: Mathlib/CategoryTheory/Monoidal/Functorial.lean [hunk 19]
```diff
@@ -47,36 +47,69 @@ open MonoidalCategory
...
+    by aesop_cat
+  right_unitality : ∀ X : C, (ρ_ (F X)).hom = (F X ◁ ε) ≫ μ X (𝟙_ C) ≫ map F (ρ_ X).hom :=
+    by aesop_cat
 
-attribute [simp] LaxMonoidal.μ_natural
+-- Perhaps in the future we'll redefine `LaxMonoidalFunctor` in terms of this,
+-- but that isn't the immediate plan.
+open LaxMonoidalStruct in
+/-- An unbundled description of lax monoidal functors. -/
+def LaxMonoidal.ofTensorHom (F : C → D) [Functorial.{v₁, v₂} F] [LaxMonoidalStruct F]
```
Comment (eric-wieser) [inline Mathlib/CategoryTheory/Monoidal/Functorial.lean:85]:
```suggestion
abbrev LaxMonoidal.ofTensorHom (F : C → D) [Functorial.{v₁, v₂} F] [LaxMonoidalStruct F]
```
since otherwise this isn't reducibly defeq to its argument.

File: Mathlib/CategoryTheory/Monoidal/Functorial.lean [hunk 20]
```diff
@@ -47,36 +47,69 @@ open MonoidalCategory
 variable {C : Type u₁} [Category.{v₁} C] [MonoidalCategory.{v₁} C] {D : Type u₂} [Category.{v₂} D]
   [MonoidalCategory.{v₂} D]
 
--- Perhaps in the future we'll redefine `LaxMonoidalFunctor` in terms of this,
--- but that isn't the immediate plan.
-/-- An unbundled description of lax monoidal functors. -/
-class LaxMonoidal (F : C → D) [Functorial.{v₁, v₂} F] where
+/-- An unbundled description of lax monoidal functors without axioms. See `LaxMonoidal` for
+the full description. -/
+class LaxMonoidalStruct (F : C → D) [Functorial.{v₁, v₂} F] where
```
Comment (eric-wieser) [inline Mathlib/CategoryTheory/Monoidal/Functorial.lean:52]: Is this refactor something that could be split out separately?

File: Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean [hunk 21]
```diff
@@ -100,13 +100,23 @@ notation "η_" => ExactPairing.coevaluation
...
-    (𝟙 Y ⊗ η_ _ _) ≫ (α_ _ _ _).inv ≫ (ε_ X _ ⊗ 𝟙 Y) = (ρ_ Y).hom ≫ (λ_ Y).inv :=
+    (Y ◁ η_ _ _) ≫ (α_ _ _ _).inv ≫ (ε_ X _ ▷ Y) = (ρ_ Y).hom ≫ (λ_ Y).inv :=
   coevaluation_evaluation'
 
 lemma evaluation_coevaluation :
-    (η_ _ _ ⊗ 𝟙 X) ≫ (α_ _ _ _).hom ≫ (𝟙 X ⊗ ε_ _ Y) = (λ_ X).hom ≫ (ρ_ X).inv :=
+    (η_ _ _ ▷ X) ≫ (α_ _ _ _).hom ≫ (X ◁ ε_ _ Y) = (λ_ X).hom ≫ (ρ_ X).inv :=
   evaluation_coevaluation'
 
+-- temporary lemma
```
Comment (eric-wieser) [inline Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean:110]: Temporary in what sense?

Comment (yuma-mizuno) [reply Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean:110]: I intended this lemma would be replaced by whiskering version (`coevaluation_evaluation`) in the future after refactoring proofs in this file.

Comment (yuma-mizuno) [reply Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean:110]: We attempted such a refactoring in #8265.

File: Mathlib/CategoryTheory/Monoidal/Functorial.lean (hunk 20 above)
Comment (yuma-mizuno) [reply Mathlib/CategoryTheory/Monoidal/Functorial.lean]: @eric-wieser I noticed that `LaxMonoidalStruct` is essentially only used in `LaxMonoidal.ofTensorHom`, which is another constructor for `LaxMonoidal` using `tenroHom` instead of the whiskerings, to avoid tautological transport for `ε` and `μ`. I now think we don't need this type class at this point because it has a tiny benefit, so I have reverted the addition of this type class for now.

**Comment by grunweg** [comment]
Drive-by comment from somebody not working in category theory: this PR is huge. Can parts of it be usefully split out?

**Comment by yuma-mizuno** [comment]
> Drive-by comment from somebody not working in category theory: this PR is huge. Can parts of it be usefully split out?

@grunweg Thank you for your suggestion. I'm trying to split out monoidal funtor part in #9988.

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
